US08497368B2
To a solution of the 6-((6-(1-ethoxyvinyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (150 mg, 0.451 mmol) in acetic acid, was added 3N HCl (0.1 mL). After the solution was stirred at rt for 2 h, solvents was removed under reduced pressure. The residue was diluted with water and its pH was adjusted to basic with aqueous NaHCO3, extracted with DCM. The combined organic layers were washed with NaHCO3(aq) and brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography to give a yellow solid of 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone (131 mg, 91%). 1H-NMR (400 MHz, CDCl3) δ ppm 9.45 (s, 1H), 8.95 (d, 1H), 8.14 (m, 2H), 7.95 (s, 1H), 7.84 (d, 1H), 7.45 (m, 1H), 6.19 (s, 2H), 2.75 (s, 3H). LCMS (method B): [MH]+=305, tR=2.95 min.

reactant | 6-((6-(1-ethoxyvinyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 0.451 mmol, 150 mg | C(C)OC(=C)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C18H16N6O
reactant | HCl | 3N, 0.1 mL | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone | 131 mg, 91% | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C(C)=O | C16H12N6O
